US05977125
Preparation of methyl 4-[(3,4,6,7,8,9-hexahydro-6,6,9,9-tetramethyl-1(2H)-phenazinon-2-yl)hydroxymethyl]benzoate
0.5 g of 1,2,3,4,6,7,8,9-octahydro-6,6,9,9-tetramethylphenazin-1-one and 0.38 g of methyl terephthalaldehydate were dissolved in 15 ml of methanol, followed by the addition of a small amount of sodium hydroxide. The obtained mixture was stirred overnight to precipitate crystals. The crystals were recovered by filtration, washed with a small amount of methanol and dried in a vacuum to give 0.53 g of the title compound as a white solid.

reactant | 1,2,3,4,6,7,8,9-octahydro-6,6,9,9-tetramethylphenazin-1-one | 0.5 g | CC1(C=2N=C3CCCC(C3=NC2C(CC1)(C)C)=O)C | C16H22N2O
reactant | methyl terephthalaldehydate | 0.38 g | COC(=O)C1=CC=C(C=C1)C=O | C9H8O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | methyl 4-[(3,4,6,7,8,9-hexahydro-6,6,9,9-tetramethyl-1(2H)-phenazinon-2-yl)hydroxymethyl]benzoate | 0.53 g | CC1(C=2N=C3CCC(C(C3=NC2C(CC1)(C)C)=O)C(C1=CC=C(C(=O)OC)C=C1)O)C | C25H30N2O4
